US09126998B2
5-Fluoro-2-nitropyridin-3-ol
With ice cooling, 5 g of 5-fluoropyridin-3-ol (44 mmol, 1 equivalent) were dissolved in 43 ml of concentrated sulphuric acid, and, at 0° C., 2.8 ml of concentrated nitric acid were added over a period of 5 min. The reaction was warmed to RT, and stirring was continued overnight. The mixture was added to 100 g of ice and stirred for 30 min. The solid obtained was filtered off and dried under reduced pressure. This gave 5.6 g (81% of theory) of the title compound, which were used without further purification for the next reaction.

reactant | 5-fluoropyridin-3-ol | 44 mmol, 5 g, 1 equivalent | FC=1C=C(C=NC1)O | C5H4FNO
reactant | nitric acid | 2.8 ml | [N+](=O)(O)[O-] | HNO3
solvent | sulphuric acid | 43 ml | S(O)(O)(=O)=O | H2O4S
product | 5-Fluoro-2-nitropyridin-3-ol | FC=1C=C(C(=NC1)[N+](=O)[O-])O | C5H3FN2O3
